US07579469B2
Synthesis of 1-[2-hydroxy-4-(5-methanesulfonyl-2,3-dihydrobenzofuran-7-yl)-4-methyl-2-trifluoromethylpentyl]-3,5-dimethyl-1H-pyridin-4-one
To a suspension of 7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-5-methanesulfonyl-2,3-dihydrobenzofuran (51.0 mg) and 3,5-dimethylpyridin-4-ol (B. Boduszek et al., Synthesis, 1979, pp. 452-453) (34 mg) in anhydrous ethanol (0.40 mL) was added sodium ethoxide (21 wt. % solution in ethanol, 52.0 μL). After heating at 85° C. for 16 hours, the reaction mixture was diluted with ethyl acetate, dried over sodium sulfate, filtered, and concentrated in vacuo.

reactant | 7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-5-methanesulfonyl-2,3-dihydrobenzofuran | 51.0 mg | CC(CC1(OC1)C(F)(F)F)(C)C1=CC(=CC=2CCOC21)S(=O)(=O)C | C16H19F3O4S
reactant | 3,5-dimethylpyridin-4-ol | CC=1C=NC=C(C1O)C | C7H9NO
reactant | sodium ethoxide | 52.0 μL | [O-]CC.[Na+]
solvent | ethanol | 0.40 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-hydroxy-4-(5-methanesulfonyl-2,3-dihydrobenzofuran-7-yl)-4-methyl-2-trifluoromethylpentyl]-3,5-dimethyl-1H-pyridin-4-one | OC(CN1C=C(C(C(=C1)C)=O)C)(CC(C)(C)C1=CC(=CC=2CCOC21)S(=O)(=O)C)C(F)(F)F | C23H28F3NO5S
